US08207342B2
1.4 g (10.4 mmol) of K2CO3 were added to a solution of 2.7 g (6.9 mmol) of N-(2-acetylphenyl)-2-(1,3-dioxoisoindolin-2-yl)-acetamide in DMF (27 ml), and the mixture was heated for 16 h at 60° C. After cooling to RT, the pH was adjusted to 2-3 with 2N hydrochloric acid. The resulting precipitate was filtered off with suction and dried in vacuo at 70° C. 9 ml (97 mmol) of POCl3 were added to the residue. This solution was heated for 2 h at 100° C. and then stirred for 16 h at RT. Toluene was then added and concentration was carried out in vacuo. This procedure was repeated, there being obtained as residue 2.13 g (5.5 mmol, 79%) of 2-(2-chloro-4-methylquinolin-3-yl)isoindoline-1,3-dione, which was reacted further without additional purification.

reactant | K2CO3 | 10.4 mmol, 1.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-(2-acetylphenyl)-2-(1,3-dioxoisoindolin-2-yl)-acetamide | 6.9 mmol, 2.7 g | C(C)(=O)C1=C(C=CC=C1)NC(CN1C(C2=CC=CC=C2C1=O)=O)=O | C18H14N2O4
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | POCl3 | 97 mmol, 9 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | DMF | 27 ml | CN(C)C=O | C3H7NO
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(2-chloro-4-methylquinolin-3-yl)isoindoline-1,3-dione | 5.5 mmol, 2.13 g, 79% | ClC1=NC2=CC=CC=C2C(=C1N1C(C2=CC=CC=C2C1=O)=O)C | C18H11ClN2O2
